US03991102
A mixture of 15.2 g. (0.055 mole) of 10-(2-dimethylaminoethyl)-10,11-dihydro-5-methylene-5H-dibenzo[a,d]cycloheptene and 23.6 g. (0.218 mole) of ethylchloroformate in 125 ml. of toluene is refluxed under a nitrogen atmosphere for 18 hours. The excess solvent and reagent is removed by evaporation in vacuo. The resulting oil product is dissolved in a solution of 175 ml. of ethanol, 17 ml. of water and 35 g. (0.625 mole) of potassium hydroxide and refluxed for 10 hours. The solvents are removed in vacuo and the resulting layers are separated between ether and water. The ether is then extracted twice with 2N hydrochloric acid and the resulting aqueous acid is then made basic and extracted with ether. The excess solvent is then dried and evaporated and the resulting oil is dissolved in isopropyl alcohol and treated with hydrochloric gas. The residue is then filtered and recrystallized from isopropyl alcohol to give 10-(2-methylaminoethyl)-10,11-dihydro-5-methylene-5H-dibenzo[a,d]cycloheptene hydrochloride, m.p. 176°-177° C.

reactant | 10-(2-dimethylaminoethyl)-10,11-dihydro-5-methylene-5H-dibenzo[a,d]cycloheptene | 0.055 mole | CN(CCC1CC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2)C | C20H23N
reactant | ethylchloroformate | 0.218 mole | C(C)OC(=O)Cl | C3H5ClO2
reactant | potassium hydroxide | 0.625 mole | [OH-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 10-(2-methylaminoethyl)-10,11-dihydro-5-methylene-5H-dibenzo[a,d]cycloheptene hydrochloride | Cl.CNCCC1CC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2 | InChI=1S/C19H21N.ClH/c1-14-17-8-4-3-7-15(17)13-16(11-12-20-2)19-10-6-5-9-18(14)19;/h3-10,16,20H,1,11-13H2,2H3;1H
